US04898864
A suspension of 3.42 g (10 mmoles)of 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl) carbonyl]cyclohexane carboxylic acid, described in Example III, and 10 g of powdered zinc (0.15 mole)in 150 cm3 of a 2.5M aqueous soda solution is heated at reflux for 7 hours. After cooling to +5° C., the reaction mixture is neutralized with 60 cm3 of 6N HCl and then acidified to pH of about 3 by the addition of 20 cm3 of glacial acetic acid. The mixture is then extracted with ethyl ether [2×150 cm3). The ether phase is thoroughly washed with water, dried on sodium sulfate and evaporated to dryness. The resulting solid is taken up in 50 cm3 of hexane, filtered, washed again twice with 40 cm3 of hexane and dried under a vacuum at 40° C. 2.9 g of 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl) hydroxymethyl]cyclohexane carboxylic acid are obtained in the form of a white solid whose melting point is 186° C.

reactant | 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl) carbonyl]cyclohexane carboxylic acid | 10 mmoles, 3.42 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)C1C(CCCC1)C(=O)O)C | C22H30O3
reactant | HCl | 6N, 60 cm3 | Cl | ClH
catalyst | zinc | 0.15 mole, 10 g | [Zn] | Zn
solvent | acetic acid | 20 cm3 | C(C)(=O)O | C2H4O2
product | 2-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl) hydroxymethyl]cyclohexane carboxylic acid | 2.9 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C1C(CCCC1)C(=O)O)O)C | C22H32O3
